US03951988
Upon boiling a solution of 7.7 g of 2-methylbenzylideneacetoacetic acid ethyl ester and 5.6 g of carbethoxymethylidenepyrrolidine in 50 ml of ethanol for 8 hours, 5-methyl-7-(2-methylphenyl)-1,2,3,7-tetrahydroindolizine-6,8-dicarboxylic acid diethyl ester of melting point 148° (alcohol) is obtained.

reactant | 2-methylbenzylideneacetoacetic acid ethyl ester | 7.7 g | C(C)OC(CC(=O)C=CC1=C(C=CC=C1)C)=O | C14H16O3
reactant | carbethoxymethylidenepyrrolidine | 5.6 g | C(=O)(OCC)C=C1NCCC1 | C8H13NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-methyl-7-(2-methylphenyl)-1,2,3,7-tetrahydroindolizine-6,8-dicarboxylic acid diethyl ester | Yield: 62% | C(C)OC(=O)C1=C(N2CCCC2=C(C1C1=C(C=CC=C1)C)C(=O)OCC)C | C22H27NO4
